US04962102
12.7 g (0.105 mol) of N,N-dimethylaniline are added to a solution of 19.9 g (0.1 mol) of 2,4-dichloro-5-nitrothiazole in 250 ml of acetonitrile and the reaction mixture is stirred under reflux for 75 hours The solvent is then stripped off in vacuo and the solid residue is stirred into water, filtered off, washed with water and dried. 25.8 g (95.7% of theory) of 4-chloro-2-(N-methyl-N-phenylamino)-5-nitrothiazole are obtained. The compound can be recrystallized from cyclohexane and can be sublimed at about 110° C. to 120° C./0.1 mbar. Melting point 136° C. to 137° C.

reactant | N,N-dimethylaniline | 0.105 mol, 12.7 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2,4-dichloro-5-nitrothiazole | 0.1 mol, 19.9 g | ClC=1SC(=C(N1)Cl)[N+](=O)[O-] | C3Cl2N2O2S
reactant | water | O | H2O
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 4-chloro-2-(N-methyl-N-phenylamino)-5-nitrothiazole | 25.8 g, 95.7% | ClC=1N=C(SC1[N+](=O)[O-])N(C1=CC=CC=C1)C | C10H8ClN3O2S
